US04731375
[Preparation of 4-(3-cyano-2-oxo-8-chromenyloxy)butyric acid]
In 25 ml of ethanol was dissolved 4.3 g of 4-(3-formyl-2-hydroxyphenyloxy)butyric acid and 1.35 g of malononitrile, to which 3 ml of an aqueous solution containing 0.12 g of potassium fluoride was added at 40° C. and the mixture was vigorously stirred for 2 minutes. Then 5 ml of concentrated hydrochloric acid was added and the mixture was stirred for 3 minutes, followed by ice-cooling. A precipitate was filtered and recrystallized to give a desired compound.

reactant | 4-(3-formyl-2-hydroxyphenyloxy)butyric acid | 4.3 g | C(=O)C=1C(=C(C=CC1)OCCCC(=O)O)O | C11H12O5
reactant | malononitrile | 1.35 g | C(CC#N)#N | C3H2N2
reactant | potassium fluoride | 0.12 g | [F-].[K+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(3-cyano-2-oxo-8-chromenyloxy)butyric acid | C(#N)C=1C(OC2=C(C=CC=C2C1)OCCCC(=O)O)=O | C14H11NO5
